US04988686
3-diphenylmethoxy-6-hydroxymethyl-1-isopropyl-4-pyridone
To a solution of 3.083 g of 3-diphenylmethoxy-6-hydroxymethyl-4-pyridone in 120 ml of methanol is added 11.082 g of isopropylamine at room temperature, and the mixture is stirred for 6 days. The reaction mixture is condensed to dryness under reduced pressure, and the resulting residue is subjected to flash column chromatography on 120 g of Wako-Gel C-300 (manufactured by Wako Pure Chemical Industries, Ltd.) with an eluent of chloroform-methanol (20:1) to perform separation and purification. The title compound (1.608 g) is obtained as colorless crystal.

reactant | 3-diphenylmethoxy-6-hydroxymethyl-4-pyridone | 3.083 g | C1(=CC=CC=C1)C(OC1C=NC(=CC1=O)CO)C1=CC=CC=C1 | C19H17NO3
reactant | isopropylamine | 11.082 g | C(C)(C)N | C3H9N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 120 ml | CO | CH4O
product | 3-diphenylmethoxy-6-hydroxymethyl-1-isopropyl-4-pyridone | 1.608 g | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)C(C)C)C1=CC=CC=C1 | C22H23NO3
